US04288436
A solution of ethyl 2-methoxyimino-3-oxo-4-chlorobutyrate (41.4 g.) in dried chloroform (100 ml.) was added dropwise over 1 hour at 20° C. to a mixture of ethane-1,2-dithiol (20.6 g.), triethylamine (21 g.) and dried chloroform (60 ml.). After stirring for 2.5 hours at 18 to 21° C., the mixture was adjusted to pH 1.0 with 10% hydrochloric acid. The chloroform layer was separated, washed with water (100 ml.×3), dried over magnesium sulfate and concentrated to dryness under reduced pressure at 40° C. The residue was dissolved in toluene (300 ml.), p-toluenesulfonic acid (3 g.) was added thereto and the resulting mixture was refluxed for 3 hours with removal of water. The reaction mixture was cooled to ambient temperature and an insoluble material was filtered off. The filtrate was concentrated under reduced pressure at 40° C. The residue was dissolved in ethyl acetate (300 ml.). The solution was in turn washed with a saturated aqueous solution of sodium bicarbonate (3 times) and water (twice), dried over magnesium sulfate and concentrated to dryness under reduced pressure at 40° C. to give yellow oil. The oil was subjected to column chromatography on silica gel (1 kg) and eluted with benzene. The eluate was concentrated under reduced pressure at 40° C. The residue was washed with diisopropyl ether and dried to give white crystals of ethyl 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetate (syn isomer) (11 g.), mp. 65° to 67° C.

reactant | ethyl 2-methoxyimino-3-oxo-4-chlorobutyrate | 41.4 g | CON=C(C(=O)OCC)C(CCl)=O | C7H10ClNO4
reactant | ethane-1,2-dithiol | 20.6 g | C(CS)S | C2H6S2
reactant | triethylamine | 21 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-methoxyimino-2-(2,3-dihydro-1,4-dithiin-5-yl)acetate | 11 g | CON=C(C(=O)OCC)C=1SCCSC1 | C9H13NO3S2
